US07262206B2
(4) 1-acetyl-5-hexanoyl-3-(ethoxy-phenyl-methylidene)-2-indolinone
Prepared from 5-hexanoyl-2-indolinone, acetic anhydride and triethyl orthobenzoate Rf=0.72 (methylene chloride/methanol 30:1)

reactant | 5-hexanoyl-2-indolinone | C(CCCCC)(=O)C=1C=C2CC(NC2=CC1)=O | C14H17NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl orthobenzoate | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 1-acetyl-5-hexanoyl-3-(ethoxy-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(CCCCC)=O)=C(C1=CC=CC=C1)OCC)=O | C25H27NO4
